US08471005B2
Into a 1-Neck round-bottom flask, 2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-5-ol (0.810 g, 4.47 mmol) and N,N-Dimethylformamide (35.00 mL, 452.0 mmol) were added. Sodium Hydride (60% dispersion mineral oil)(6:4, Sodium hydride:Mineral Oil, 0.214 g, 5.36 mmol) was added portion wise at room temperature and stirred for 30 minutes. [β-(Trimethylsilyl)ethoxy]methyl chloride (0.745 g, 4.47 mmol) in DMF (5 mL) was added dropwise over 10 minutes. The reaction mixture was stirred at room temperature for 1 hour. The reaction was partitioned with water and Et2O. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with Hexane and EtOAc as eluant (0 to 40% EtOAc). The collected fractions afforded 2-Methylsulfanyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazine as a yellow solid (1.05, 75%).

reactant | 2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-5-ol | 4.47 mmol, 0.810 g | CSC1=NN2C(C=N1)=C(C=C2)O | C7H7N3OS
reactant | Sodium Hydride | 5.36 mmol, 0.214 g | [H-].[Na+]
reactant | [β-(Trimethylsilyl)ethoxy]methyl chloride | 4.47 mmol, 0.745 g | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | N,N-Dimethylformamide | 452.0 mmol, 35.00 mL | CN(C=O)C | C3H7NO
product | 2-Methylsulfanyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazine | CSC1=NN2C(C=N1)=C(C=C2)OCOCC[Si](C)(C)C | C13H21N3O2SSi
